US05025025
To a suspension of 8.6 g of sodium hydride (50% dispersion in mineral oil) in 200 mL of dimethylformamide is added in a solution of 17.7 g of 3-pyridylacetonitrile in 15 mL of dimethylformamide over a period of 0.5 hour. The reaction is stirred for a further 0.5 hour at room temperature, then cooled to -20° before adding 30 g of methyl 5-bromovalerate. The reaction is then allowed to warm up to room temperature over a period of several hours and left to stand for 18 hours. The reaction is then poured into 300 mL of ice water and extracted with 300 mL of ethyl acetate. The extract is washed with 3 portions of 75 mL of 1N hydrochloric acid and the aqueous solution neutralized with ammonium hydroxide and extracted with ethyl acetate. The extract is dried over magnesium sulfate, filtered and evaporated to yield methyl 6-cyano-6-(3-pyridyl)-hexanoate.

reactant | sodium hydride | 8.6 g | [H-].[Na+]
reactant | 3-pyridylacetonitrile | 17.7 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | methyl 5-bromovalerate | 30 g | BrCCCCC(=O)OC | C6H11BrO2
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl 6-cyano-6-(3-pyridyl)-hexanoate | C(#N)C(CCCCC(=O)OC)C=1C=NC=CC1 | C13H16N2O2
